* Z:\home\jlogan\git\deimos\hardware\sims\analog_i_filters\sk2_filter_3kHz.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 N004 N001 opamp Aol=100K GBW=10Meg
C1 N001 N003 10nF
C2 N004 0 10nF
R1 N003 N002 3.3k
R2 N004 N003 3.3k
V1 N002 0 AC 1 0
R3 ADC_IN N001 10R
C3 ADC_IN 0 1µF
.ac dec 20 0.01 100000
.lib opamp.sub
* 16kHz ADC input RC filter\nprimarily for capacitance
* Sallen-Key low-pass
.backanno
.end
